US07326799B2
Synthesis of (2S)-N-[(S)-1,2-dioxo-1-[N-[(S)-2-oxocyclohexyl]amino]-3-heptyl]-4-methyl-2-[N-(phenylmethoxycarbonyl)amino]pentanamide (Compound of the Formula X)
Under argon gas stream, to 4 ml of an anhydrous dimethylsulfoxide-dichloromethane (1:1) solution containing 567 mg (3.6 mmol) of sulfur trioxide pyridine complex salt were successively added dropwise at 0° C. 0.62 ml (3.6 mmol) of diisopropylethylamine, and then, 2 ml of an anhydrous dimethylsulfoxide solution containing 150 mg (0.3 mmol) of (2S)-N-[(2S,3S)-2-hydroxy-1-[N-[(1S,2S)-2-hydroxycyclohexane-1-yl]amino]-1-oxo-3-heptyl]-4-methyl-2-[N-(phenylmethoxycarbonyl)amino]pentanamide, and the mixture was stirred at the same temperature for 5 hours. After completion of the reaction, 25 ml of ice-water was added to the reaction mixture, and the resulting mixture was extracted with 20 ml of ethyl acetate three times. The organic layers were combined, washed successively with 50 ml of a 10%-aqueous citric acid solution, 50 ml of a saturated aqueous sodium hydrogen carbonate solution, and then 50 ml of a saturated NaCl solution, dried over anhydrous sodium sulfate, and then, concentrated under reduced pressure. The residue was applied to neutral silica gel column chromatography, and eluted by a hexane-ethyl acetate (11:9) eluent to obtain 120 mg of the title compound, and further recrystallized from 5 ml of ethyl acetate-hexane (3:2) to obtain 90 mg (Yield: 60.5%) of the title compound.

reactant | dimethylsulfoxide-dichloromethane | 4 ml | ClCCl.CS(=O)C
reactant | diisopropylethylamine | 3.6 mmol, 0.62 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S)-N-[(2S,3S)-2-hydroxy-1-[N-[(1S,2S)-2-hydroxycyclohexane-1-yl]amino]-1-oxo-3-heptyl]-4-methyl-2-[N-(phenylmethoxycarbonyl)amino]pentanamide | 0.3 mmol, 150 mg | O[C@H](C(=O)N[C@@H]1[C@H](CCCC1)O)[C@H](CCCC)NC([C@H](CC(C)C)NC(=O)OCC1=CC=CC=C1)=O | C27H43N3O6
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | (2S)-N-[(S)-1,2-dioxo-1-[N-[(S)-2-oxocyclohexyl]amino]-3-heptyl]-4-methyl-2-[N-(phenylmethoxycarbonyl)amino]pentanamide | 120 mg | O=C(C([C@H](CCCC)NC([C@H](CC(C)C)NC(=O)OCC1=CC=CC=C1)=O)=O)N[C@@H]1C(CCCC1)=O | C27H39N3O6
